US04404230
2-Chloro-6-nitro-benzoic acid
A mixture of 77.7 gm (0.453 mol) of 2-chloro-6-nitro-toluene, 190 gm (1.2 mol) of potassium permanganate, 500 ml of 1 N potassium hydroxide and 4 liters of water was heated for 8.5 hours at 100° C. After standing overnight, 25 gm (0.16 mol) of potassium permanganate were added, and the reaction mixture was heated for 2.5 hours more at 100° C. The unreacted starting material was distilled off by steam distillation. The remaining reaction solution was filtered, the filter cake was washed with hot water, and the combined filtrates were evaporated to about 750 ml. After acidifying with hydrochloric acid a precipitate was obtained, which was filtered off and dried.

reactant | 2-chloro-6-nitro-toluene | 0.453 mol, 77.7 gm | ClC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | potassium permanganate | 1.2 mol, 190 gm | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium hydroxide | 1 N, 500 ml | [OH-].[K+]
reactant | potassium permanganate | 0.16 mol, 25 gm | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 4 liters | O | H2O
product | 2-Chloro-6-nitro-benzoic acid | ClC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H4ClNO4
